US08445005B2
Moreover, 10 g (36 mmol) of the resulting (E)-1-(4′-hydroxy-3′-methoxyphenyl)dec-1-en-3-one was dissolved in 100 mL of ethanol followed by the addition of 1 g of palladium carbon (5% palladium) to this solution and stirring overnight at normal temperature in a hydrogen atmosphere (normal pressure). After filtering the insoluble matter, the filtrate was concentrated under reduced pressure to obtain 9.8 g of crude product. This crude product was purified by column chromatography (SiO2/CHCl3) to obtain 1-(4′-hydroxy-3′-methoxyphenyl)-3-decanone (5.6 g, yield: 58%).

reactant | (E)-1-(4′-hydroxy-3′-methoxyphenyl)dec-1-en-3-one | 36 mmol, 10 g | OC1=C(C=C(C=C1)\C=C\C(CCCCCCC)=O)OC | C17H24O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium carbon | 1 g | [C].[Pd]
product | 1-(4′-hydroxy-3′-methoxyphenyl)-3-decanone | 5.6 g, yield: 58% | OC1=C(C=C(C=C1)CCC(CCCCCCC)=O)OC | C17H26O3
